US04708733
Preparation of diethyl-2-(2'-methyl-4-chloro-phenoxy)-propionyl-malonate
Into a 200 ml round-bottomed flask equipped with a magnetic stirrer, a thermometer, a dropping funnel and a calcium chloride tube 100 ml of toluene, 10.1 g of triethyl amine and 21 g of 2-(2'-methyl-4'-chloro-phenoxy)-propionic acid are weighed in. The reaction mixture is cooled under 0° C. and 10.8 g of ethyl chloro formiate are added dropwise at such a rate that the temperature should be between -1° C. and 0° C. The thick suspension formed is stirred for a further period of 20 minutes, whereupon a mixture of diethyl-ethoxy-magnesium-malonate prepared from 17.6 g of diethyl malonate and 50 ml ether is added dropwise at such a rate that the temperature should not exceed 0° C. The reaction mixture is allowed to stand at room temperature for 16 hours and worked up as described in Example 1. Thus 31 g of the desired compound are obtained in the form of a pale yellow oil, yield 88%, nD25 =1.348.

reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
reactant | 2-(2'-methyl-4'-chloro-phenoxy)-propionic acid | 21 g | CC1=C(OC(C(=O)O)C)C=CC(=C1)Cl | C10H11ClO3
reactant | diethyl-ethoxy-magnesium-malonate | C(CC(=O)[O-])(=O)[O-].C(C)C(C)(O[Mg+2])CC
reactant | diethyl malonate | 17.6 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | triethyl amine | 10.1 g | C(C)N(CC)CC | C6H15N
product | diethyl-2-(2'-methyl-4-chloro-phenoxy)-propionyl-malonate | 31 g, yield 88% | C(C)OC(C(C(=O)OCC)C(C(C)OC1=C(C=C(C=C1)Cl)C)=O)=O | C17H21ClO6
